US04017492
In the manner given in Example 10, a solution of 7-chloro-2-[(1-carboxy-2-hydroxyethylidene)hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be treated with ethereal diazomethane to give 7-chloro-2-[[1-(methoxycarbonyl)-2-hydroxyethylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-[(1-carboxy-2-hydroxyethylidene)hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CO)C(=O)O)C2=C(C=CC=C2)Cl)C1 | C18H14Cl2N4O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 7-chloro-2-[[1-(methoxycarbonyl)-2-hydroxyethylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CO)C(=O)OC)C2=C(C=CC=C2)Cl)C1 | C19H16Cl2N4O3
